US07439385B2
The suspension of (1-imidazoyl)ethanoic acid (10.0 g) and phosphorous acid (19.5 g) in diphenyl ether (50 ml) was heated up to 70° C. for 1 hour. Phosphorous trichloride (20 ml) was slowly added to reaction mass at 70° C. temperature and maintained reaction temperature for another 6 hours. Reaction mass was cooled to 25° C. followed by addition of water (150 ml) and toluene (30 ml). Reaction mixture was again heated to 70° C. and charged charcoal in hazy biphasic solution, stirred, filtered through Hyflo bed, washed the bed with hot water (30 ml). Layers was separated from filtrate, aqueous layer was washed with toluene (20 ml) and combined organic layer was then back extracted with water (20 ml) and mixed with main aqueous layer. The water (140 ml) was distilled out from combined aqueous layer at atmospheric pressure in 2 hours and then refluxed the concentrated mass for 13 hours. Reaction mass was cooled to 25° C. followed by addition of methanol (50 ml) in 1 hours. The reaction mixture was stirred and again cooled to 0° C. followed filtration. The filtrate was washed with chilled 1:2 mixture (30 ml) of water and methanol and dried at 60° C. to get Zoledronic Acid.

reactant | (1-imidazoyl)ethanoic acid | 10.0 g | N1(C=NC=C1)C(=O)CC(=O)O | C6H6N2O3
reactant | phosphorous acid | 19.5 g | P(O)(O)O | H3O3P
reactant | Phosphorous trichloride | 20 ml | P(Cl)(Cl)Cl | Cl3P
reactant | charcoal | C | CH4
reactant | diphenyl ether | 50 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | methanol | 50 ml | CO | CH4O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 150 ml | O | H2O
product | Zoledronic Acid | C1=CN(C=N1)CC(O)(P(=O)(O)O)P(=O)(O)O | C5H10N2O7P2
